### PR TITLE
[Merged by Bors] - feat(ENNReal): `x⁻¹ ^ n = (x ^ n)⁻¹`

### PR DESCRIPTION
**Pull request by FormulaRabbit81**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 1]
```diff
@@ -654,6 +654,14 @@ lemma rpow_intCast (x : ℝ≥0∞) (n : ℤ) : x ^ (n : ℝ) = x ^ n := by
   cases n <;> simp only [Int.ofNat_eq_coe, Int.cast_natCast, rpow_natCast, zpow_natCast,
     Int.cast_negSucc, rpow_neg, zpow_negSucc]
 
+lemma NNReal_pow_le_one (m : ℤ) (n : NNReal) (hn : 1 ≤ n) (hm : m ≤ 0) :
+    (n ^ m : ENNReal) ≤ 1 := by
+  convert_to (n ^ (m : ℝ) : ENNReal) ≤ 1
+  · simp
+  rw [←ENNReal.coe_rpow_of_ne_zero (by positivity)]
+  simp only [NNReal.rpow_intCast, coe_le_one_iff]
+  exact zpow_le_one_of_nonpos₀ hn hm
```
Comment (kckennylau) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]:
```suggestion
lemma ENNReal.coe_zpow_le_one_of_nonpos (m : ℤ) (n : NNReal) (hn : 1 ≤ n) (hm : m ≤ 0) :
    (n ^ m : ENNReal) ≤ 1 := by
  convert ENNReal.coe_le_coe.mpr (zpow_le_one_of_nonpos₀ hn hm)
  rw [ENNReal.coe_zpow (by positivity)]
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 2]
```diff
@@ -654,6 +654,11 @@ lemma rpow_intCast (x : ℝ≥0∞) (n : ℤ) : x ^ (n : ℝ) = x ^ n := by
   cases n <;> simp only [Int.ofNat_eq_coe, Int.cast_natCast, rpow_natCast, zpow_natCast,
     Int.cast_negSucc, rpow_neg, zpow_negSucc]
 
+lemma coe_zpow_le_one_of_nonpos (m : ℤ) (n : NNReal) (hn : 1 ≤ n) (hm : m ≤ 0) :
+    (n ^ m : ENNReal) ≤ 1 := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Can you generalise this lemma away from the coercion from `NNReal`? Also `n` is a confusing letter to use for that 😉 
```suggestion
lemma zpow_le_one_of_nonpos {n : ℤ} (hn : n ≤ 0) {x : ℝ≥0∞} (hx : 1 ≤ x) : x ^ n ≤ 1 := by
```

Comment (FormulaRabbit81) [reply Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: See new commit - golfing suggestions appreciated :)

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 3]
```diff
@@ -722,6 +722,51 @@ theorem inv_rpow (x : ℝ≥0∞) (y : ℝ) : x⁻¹ ^ y = (x ^ y)⁻¹ := by
   rw [← mul_rpow_of_ne_zero (ENNReal.inv_ne_zero.2 h_top) h0, ENNReal.inv_mul_cancel h0 h_top,
     one_rpow]
 
+protected lemma inv_zpow (x : ℝ≥0∞) (n : ℤ) : x⁻¹ ^ n = (x ^ n)⁻¹ := by
+  field_simp
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]: Does this do anything useful?
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 4]
```diff
@@ -722,6 +722,51 @@ theorem inv_rpow (x : ℝ≥0∞) (y : ℝ) : x⁻¹ ^ y = (x ^ y)⁻¹ := by
...
+  simp [@one_div,← rpow_intCast, ENNReal.inv_rpow]
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean]:
```suggestion
  simp [← rpow_intCast, ENNReal.inv_rpow]
```

**Review by YaelDillies — COMMENTED** [review]
Can you prove these properties of `zpow` without relying on `rpow`, so that they can be moved much earlier, ie `Data.ENNReal.Inv`?

**Comment by FormulaRabbit81** [comment]
> 

I tried but couldn't find any helpful lemmas without casting. Most of the useful stuff on zpow seems to be for groups with 0 like Z. I couldn't find a way to turn the (0 : ENNReal) ^ n into (0 : Z) ^ n. I think this is the only bit that relies on rpow

**Comment by YaelDillies** [comment]
Can you prove this straight from the definition of `zpow` on `ENNReal`?

**Comment by YaelDillies** [comment]
`zpow` on `ENNReal` is defined in [`ENNReal.instDivInvMonoid`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/ENNReal/Basic.html#ENNReal.instDivInvMonoid) and it's not defined explicitly, which means it must be given the default value [`zpowRec`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Defs.html#zpowRec). That means you won't get good defeqs and you instead need to use lemmas like [`zpow_natCast`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Defs.html#zpow_natCast) and [`zpow_negSucc`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Defs.html#zpow_negSucc).

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge
